US07786165B2
methyl 3-(4-{[4-(chloromethyl)benzyl][(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate
A solution of methyl 3-(4-{[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate (2.78 g, 7.63 mmol), 4-chloromethylbenzyl alcohol (1.21 g, 7.70 mmol) and triphenylphosphine (3.93 g, 15.4 mmol) in toluene (150 mL) was stirred under ice-cooling. Diethyl azodicarboxylate (40% toluene solution, 6.98 μmL, 15.4 mmol) was added, and the mixture was allowed to warm to room temperature and stirred for 72 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (20%-60% ethyl acetate/hexane). Hexane-ethyl acetate was added to the obtained residue, and the resultant insoluble material was filtered off. The filtrate was concentrated to give the title compound (3.65 g, yield 95%) as a red oil.

reactant | methyl 3-(4-{[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate | 7.63 mmol, 2.78 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NC1=CC=C(C=C1)CCC(=O)OC | C16H16N2O6S
reactant | 4-chloromethylbenzyl alcohol | 7.70 mmol, 1.21 g | ClCC1=CC=C(CO)C=C1 | C8H9ClO
reactant | triphenylphosphine | 15.4 mmol, 3.93 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethyl azodicarboxylate | 15.4 mmol | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 3-(4-{[4-(chloromethyl)benzyl][(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate | 3.65 g, yield 95% | ClCC1=CC=C(CN(C2=CC=C(C=C2)CCC(=O)OC)S(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-])C=C1 | C24H23ClN2O6S
